US07795444B2
Preparation of (S)-2-(4-nitrophenyl)-1-[(thiophene-2-yl)oxazol-4-yl]ethanamine hydrobromide salt (47):
A mixture of (S)-tert-butyl 4-bromo-1-(4-nitrophenyl)-3-oxobutan-2-ylcarbamate, 7, (38.7 g, 100 mmol), and thiophene-2-carboxamide (14 g, 110 mmol) (available from Alfa Aesar) in CH3CN (500 mL) is refluxed for 5 hours. The reaction mixture is cooled to room temperature and diethyl ether (200 mL) is added to the solution. The precipitate which forms is collected by filtration. The solid is dried under vacuum to afford the desired product which can be used for the next step without purification.

reactant | (S)-tert-butyl 4-bromo-1-(4-nitrophenyl)-3-oxobutan-2-ylcarbamate | BrCC([C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O)=O | C15H19BrN2O5
reactant | thiophene-2-carboxamide | 110 mmol, 14 g | S1C(=CC=C1)C(=O)N | C5H5NOS
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | CH3CN | 500 mL | CC#N | C2H3N
product | (S)-2-(4-nitrophenyl)-1-[(thiophene-2-yl)oxazol-4-yl]ethanamine hydrobromide salt | Br.[N+](=O)([O-])C1=CC=C(C=C1)C[C@H](N)C=1N=C(OC1)C=1SC=CC1 | InChI=1S/C15H13N3O3S.BrH/c16-12(8-10-3-5-11(6-4-10)18(19)20)13-9-21-15(17-13)14-2-1-7-22-14;/h1-7,9,12H,8,16H2;1H/t12-;/m0./s1
